US05204248
In a test tube with an outer diameter of 15 mm, 0.25 g of a baker's yeast (Saccharomyces cerevisiae, manufactured by Oriental Kobo Kogyo K K ) was suspended in 3 ml of a McIlvaine buffer containing 0.54 g of glucose dissolved therein, and then 6 μl of dimethylformamide containing 6 mg of methyl 2-chloro-3-oxo-3-(p-methoxyphenyl)propionate was charged, followed by shaking reaction at 30° C. for 24 hours. When the reaction mixture was extracted with 2 ml of ethyl acetate and the amount of methyl 2-chloro-3-hydroxy-3-(p-methoxyphenyl)propionate formed was quantitated, it was found that 0.6 mg of the product was formed.

reactant | glucose | 0.54 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | methyl 2-chloro-3-oxo-3-(p-methoxyphenyl)propionate | ClC(C(=O)OC)C(C1=CC=C(C=C1)OC)=O | C11H11ClO4
solvent | dimethylformamide | 6 μl, 6 mg | CN(C=O)C | C3H7NO
product | methyl 2-chloro-3-hydroxy-3-(p-methoxyphenyl)propionate | ClC(C(=O)OC)C(C1=CC=C(C=C1)OC)O | C11H13ClO4
